US09107415B2
To a solution of 2-(4-bromo-2,6-dimethylphenyl)cyclopentane-1,3-dione (40 g, 0.143 mol) in acetone (2000 ml) is added anhydrous potassium carbonate (98.5 g, 0.714 mol) and iodomethane (45 ml, 0.72 mol). The resulting mixture is stirred at 25-30°C. for 16 hours, then volatile solvents are removed in vacuo, and the residue is diluted with distilled water (200 ml) and extracted with ethyl acetate (3×500 ml). Organic fractions are combined, washed with distilled water, brine, then dried over sodium sulphate, filtered and the filtrate concentrated in vacuo. The crude product is purified by flash column chromatography to afford 2-(4-bromo-2,6-dimethylphenyl)-3-methoxycyclopent-2-enone.

reactant | 2-(4-bromo-2,6-dimethylphenyl)cyclopentane-1,3-dione | 0.143 mol, 40 g | BrC1=CC(=C(C(=C1)C)C1C(CCC1=O)=O)C | C13H13BrO2
reactant | potassium carbonate | 0.714 mol, 98.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.72 mol, 45 ml | IC | CH3I
solvent | acetone | 2000 ml | CC(=O)C | C3H6O
product | 2-(4-bromo-2,6-dimethylphenyl)-3-methoxycyclopent-2-enone | BrC1=CC(=C(C(=C1)C)C=1C(CCC1OC)=O)C | C14H15BrO2
